US09107415B2
Intermediate 12: Synthesis of 2-(4-bromo-2,6-dichloro-phenyl)-3-methoxy-5-(2-pyridylmethyl)cyclopent-2-en-1-one
To a stirred solution of (5E)-2-(4-bromo-2,6-dichloro-phenyl)-3-methoxy-5-(2-pyridylmethylene)cyclopent-2-en-1-one (235 mg, 0.55 mmol) in glacial AcOH (2.4 ml) at 0°C. was added zinc dust (126 mg, 1.94 mmol) portionwise over 10 minutes. The reaction was stirred at room temperature for 2 hours and then diluted with EtOAc (25 ml), filtered through Celite and washed through with further EtOAc (2×20 ml). The filtrate was evaporated to dryness under reduced pressure and then azeotroped with toluene and then MeOH to give the desired product (235 mg, 99%) as a brown gum. 1H NMR (400 MHz, CDCl3) δ ppm 8.52 (d, 1H), 7.60 (dd, 1H), 7.45 (2×s, 2×1H), 7.25 (d, 1H), 7.15 (dd, 1H), 3.80 (s, 3H), 3.45-3.35 (1H, m), 3.20-3.10 (m, 1H), 3.00-2.90 (1H, m), 2.90-2.85 (m, 2H).

reactant | (5E)-2-(4-bromo-2,6-dichloro-phenyl)-3-methoxy-5-(2-pyridylmethylene)cyclopent-2-en-1-one | 0.55 mmol, 235 mg | BrC1=CC(=C(C(=C1)Cl)C=1C(/C(/CC1OC)=C/C1=NC=CC=C1)=O)Cl | C18H12BrCl2NO2
solvent | AcOH | 2.4 ml | CC(=O)O | C2H4O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
catalyst | zinc | 1.94 mmol, 126 mg | [Zn] | Zn
product | 2-(4-bromo-2,6-dichloro-phenyl)-3-methoxy-5-(2-pyridylmethyl)cyclopent-2-en-1-one | 235 mg, 99% | BrC1=CC(=C(C(=C1)Cl)C=1C(C(CC1OC)CC1=NC=CC=C1)=O)Cl | C18H14BrCl2NO2
